US04077999
1-(N-Dimethylaminoethoxyimino)-2-(p-nitrobenzal)-cyclohexane
On starting from 17.7 g (0.1 moles) of dimethylaminoethoxyamine hydrochloride and 23.1 g (0.1 moles) of 2-(p-nitrobenzal)-cyclohexanone, one proceeds in the way as specified in Example 32.

reactant | dimethylaminoethoxyamine hydrochloride | 0.1 moles, 17.7 g | Cl.CN(C)CCON
reactant | 2-(p-nitrobenzal)-cyclohexanone | 0.1 moles, 23.1 g | [N+](=O)([O-])C1=CC=C(C=C2C(CCCC2)=O)C=C1 | C13H13NO3
product | 1-(N-Dimethylaminoethoxyimino)-2-(p-nitrobenzal)-cyclohexane | CN(C)CCON=C1C(CCCC1)=CC1=CC=C(C=C1)[N+](=O)[O-] | C17H23N3O3
